US07678818B2
2-Acetylamino-N-(4-tert-butyl-benzyl)-5-chloro-N-[2-(3-trifluoromethyl-phenyl)-ethyl]-benzamide
2-Amino-N-(4-tert-butyl-benzyl)-5-chloro-N-[2-(3-trifluoromethyl-phenyl)-ethyl]-benzamide (140 mg, 0.286 mmol) was dissolved in methylene chloride (2 ml). Acetic acid anhydride (32 mg, 0.315 mmol) and ethyl-diisopropylamine (41 mg, 0.315 mmol) were added and the reaction was stirred over night at RT. Further acetic acid anhydride (30 μl) was added and the reaction was stirred for another night at RT. The reaction was extracted with ethyl acetate, the combined organic layers were concentrated in vacuo and the residue was purified by flash column chromatography (heptane/ethyl acetate:7/3) to yield the desired product (110 mg, 72%) as an off-white solid. MS (ISP) 529.2 (M−H)−.

reactant | 2-Amino-N-(4-tert-butyl-benzyl)-5-chloro-N-[2-(3-trifluoromethyl-phenyl)-ethyl]-benzamide | 0.286 mmol, 140 mg | NC1=C(C(=O)N(CCC2=CC(=CC=C2)C(F)(F)F)CC2=CC=C(C=C2)C(C)(C)C)C=C(C=C1)Cl | C27H28ClF3N2O
reactant | Acetic acid anhydride | 0.315 mmol, 32 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | ethyl-diisopropylamine | 0.315 mmol, 41 mg | C(C)N(C(C)C)C(C)C | C8H19N
reactant | acetic acid anhydride | 30 μl | C(C)(=O)OC(C)=O | C4H6O3
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | 2-Acetylamino-N-(4-tert-butyl-benzyl)-5-chloro-N-[2-(3-trifluoromethyl-phenyl)-ethyl]-benzamide | 110 mg, 72% | C(C)(=O)NC1=C(C(=O)N(CCC2=CC(=CC=C2)C(F)(F)F)CC2=CC=C(C=C2)C(C)(C)C)C=C(C=C1)Cl | C29H30ClF3N2O2
